US05506235
4-(Dodecylamino)quinolin-8-ol Hydrochloride
In a manner similar to that described in Example 49, Part B, 4-chloroquinolin-8-ol and n-dodecylamine were transformed into the title compound: m.p. 189°-190° C.; m/e 328 (molecular ion); NMR spectum consistent with assigned structure.

reactant | 4-chloroquinolin-8-ol | ClC1=CC=NC2=C(C=CC=C12)O | C9H6ClNO
reactant | n-dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | 4-(Dodecylamino)quinolin-8-ol Hydrochloride | Cl.C(CCCCCCCCCCC)NC1=CC=NC2=C(C=CC=C12)O | InChI=1S/C21H32N2O.ClH/c1-2-3-4-5-6-7-8-9-10-11-16-22-19-15-17-23-21-18(19)13-12-14-20(21)24;/h12-15,17,24H,2-11,16H2,1H3,(H,22,23);1H
